US08217177B2
6-(difluoro(5-(1-methyl-1H-pyrazol-4-yl)isoxazolo[4,5-b]pyridin-3-yl)methyl)quinoline
1-(6-chloro-3-fluoropyridin-2-yl)-2,2-difluoro-2-(quinolin-6-yl)ethanone. n-Butyllithium (2.5M in hexanes, 3.70 ml, 9.25 mmol) was added to a stirred solution of DABCO (1.04 g, 9.25 mmol) in Et2O (46 mL) at −78° C. The reaction mixture was stirred 1 h at −20° C. and then cooled again at −78° C. 2-Chloro-5-fluoropyridine (0.939 ml, 9.25 mmol) in Et2O (5 mL) was added. Stirring was continued at −78° C. for 1 h. 2,2-Difluoro-N-methoxy-N-methyl-2-(quinolin-6-yl)acetamide (2.24 g, 8.41 mmol) in Et2O (20 mL) was added by cannula. The reaction mixture was stirred at −78° C. for 70 min. The cooling bath was replaced by an ice/water bath. After 10 min of stirring at 0° C., the reaction mixture was quenched with water. The water layer was extracted with EtOAc and DCM/MeOH(9/1). The organic layers were combined, dried over MgSO4, filtered and concentrated in vacuo. Purification by MPLC (hexanes/EtOAc: 100/0 to 40/60) afforded the title compound (2.27 g, 80% yield).

reactant | 1-(6-chloro-3-fluoropyridin-2-yl)-2,2-difluoro-2-(quinolin-6-yl)ethanone | ClC1=CC=C(C(=N1)C(C(C=1C=C2C=CC=NC2=CC1)(F)F)=O)F | C16H8ClF3N2O
reactant | n-Butyllithium | 9.25 mmol, 2.5M, 3.70 ml | C(CCC)[Li]
reactant | DABCO | 9.25 mmol, 1.04 g | C1CN2CCN1CC2 | C6H12N2
reactant | 2-Chloro-5-fluoropyridine | 9.25 mmol, 0.939 ml | ClC1=NC=C(C=C1)F | C5H3ClFN
reactant | 2,2-Difluoro-N-methoxy-N-methyl-2-(quinolin-6-yl)acetamide | 8.41 mmol, 2.24 g | FC(C(=O)N(C)OC)(C=1C=C2C=CC=NC2=CC1)F | C13H12F2N2O2
solvent | Et2O | 46 mL | CCOCC | C4H10O
solvent | Et2O | 5 mL | CCOCC | C4H10O
solvent | Et2O | 20 mL | CCOCC | C4H10O
product | 6-(difluoro(5-(1-methyl-1H-pyrazol-4-yl)isoxazolo[4,5-b]pyridin-3-yl)methyl)quinoline | 2.27 g, 80% yield | FC(C=1C=C2C=CC=NC2=CC1)(C1=NOC=2C1=NC(=CC2)C=2C=NN(C2)C)F | C20H13F2N5O
